US08283354B2
To a solution of 2-(7-methyl-4-(piperazin-1-yl)quinazolin-2-yl)phenol (250 mg, 0.78 mmol) in CH2Cl2 (6 mL) was added triethylamine (217 μL, 1.56 mmol) followed by the addition of 2-hydroxy-3-methylbutanoic acid (120 mg, 1.0 mmol) and HATU (380 mg, 1.00 mmol). The reaction mixture was stirred at room temperature for 3 h and then quenched with H2O. The aqueous layer was extracted with CH2Cl2, dried over MgSO4, filtered, and concentrated. Purification via silica gel chromatography using 0-10% EtOAc in 50:50 CH2Cl2:hexanes gave 2-hydroxy-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-3-methylbutan-1-one (230 mg, 70%). LC/MS: m/z 421.3 (M+H)+ at 2.43 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.45 (m, 1H), 8.01 (d, J=8.5 Hz, 1H), 7.70 (s, 1H), 7.39 (m, 2H), 6.95 (m, 2H), 4.79 (d, J=7.2 Hz, 1H), 4.11 (dd, J=7.0, 5.9 Hz, 1H), 3.87 (m, 8H), 2.52 (s, 3H), 1.91 (m, 1H), 0.88 (dd, J=22.8, 6.7 Hz, 6H).

reactant | 2-(7-methyl-4-(piperazin-1-yl)quinazolin-2-yl)phenol | 0.78 mmol, 250 mg | CC1=CC=C2C(=NC(=NC2=C1)C1=C(C=CC=C1)O)N1CCNCC1 | C19H20N4O
reactant | triethylamine | 1.56 mmol, 217 μL | C(C)N(CC)CC | C6H15N
reactant | 2-hydroxy-3-methylbutanoic acid | 1.0 mmol, 120 mg | OC(C(=O)O)C(C)C | C5H10O3
reactant | HATU | 1.00 mmol, 380 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | 2-hydroxy-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-3-methylbutan-1-one | 230 mg, 70% | OC(C(=O)N1CCN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)C(C)C | C24H28N4O3
